US06897231B2
F. 3-(2-Methoxyphenyl)-1H-indazole-5-carbonitrile
3-(2-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.539 g, 2.17 mmol) was dissolved in 10 mL of tetrahydrofuran. Aqueous hydrogen chloride (10 mL, 6.0N) was added and the reaction mixture was stirred at room temperature for 12 hours, then reflux temperature for 7 hours. The pH of the reaction was neutralized using saturated sodium bicarbonate and the crude was extracted with ethyl acetate (3×15 mL). Attempt to purify the crude by column chromatography was unsuccessful: ES-MS (m/z) 250 [M+1]+.

reactant | 3-(2-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 2.17 mmol, 0.539 g | COC1=C(C=CC=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C20H19N3O2
reactant | hydrogen chloride | 6.0N, 10 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(2-Methoxyphenyl)-1H-indazole-5-carbonitrile | COC1=C(C=CC=C1)C1=NNC2=CC=C(C=C12)C#N | C15H11N3O
